US09085555B2
D. 2-(3-Carbamoyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetic acid
To a solution of tert-butyl 2-(3-carbamoyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate (663 mg, 2.40 mmol) in CH2Cl2 (20 mL) was added TFA (10 mL, 130 mmol), and the resulting mixture was stirred at RT for 6 h. The reaction mixture was concentrated in vacuo, the residual solid was suspended in methanol and volatiles were removed again in vacuo to give the title compound.

reactant | tert-butyl 2-(3-carbamoyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate | 2.40 mmol, 663 mg | C(N)(=O)C1=NN(C2=CN=CC=C21)CC(=O)OC(C)(C)C | C13H16N4O3
reactant | TFA | 130 mmol, 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-Carbamoyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetic acid | C(N)(=O)C1=NN(C2=CN=CC=C21)CC(=O)O | C9H8N4O3
